US04315858
A mixture of 4.6 g (20 mmol) of 6-(3-aminophenyl)-1,2-dihydro-2-oxonicotinic acid and 100 ml of acetic anhydride is stirred at reflux for 2 hrs. The reaction is cooled and the solid filtered, washed with acetonitrile and ether, and dried to give 4.12 of 6-[3(acetylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid.

reactant | 6-(3-aminophenyl)-1,2-dihydro-2-oxonicotinic acid | 20 mmol, 4.6 g | NC=1C=C(C=CC1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O3
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-[3(acetylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | C(C)(=O)NC=1C=C(C=CC1)C=1NC(C(C(=O)O)=CC1)=O | C14H12N2O4
